US05877199
3-(1-Benzylindol-3-yl)propionic Acid
8 ml of a solution of 1.00 g of indol-3-ylpropionic acid in dimethyl formamide were added gradually to 4 ml of a suspension of 460 mg (10.6 mmol) of sodium hydride (55% w/v dispersion in mineral oil) in dimethyl formamide at a temperature of -5° C., and the resulting mixture was stirred for 30 minutes at this temperature. After this time, 1.8 g (10.6 mmol) of benzyl bromide was added to the mixture which was then warmed to room temperature, stirred for 10 min, poured into ice-water, and acidified with a 1N aqueous solution of hydrogen chloride. The resulting aqueous layer was extracted with methylene chloride, and the extract was dried over anhydrous magnesium sulfate and then the solvent was removed by evaporation under reduced pressure. The residue was recrystallized from a 1:1 v/v mixture of ethyl acetate and hexane to yield 1.15 g (79%) of the title compound melting at 121°-122° C.

reactant | indol-3-ylpropionic acid | 1.00 g | N1C=C(C2=CC=CC=C12)C(C(=O)O)C | C11H11NO2
reactant | sodium hydride | 10.6 mmol, 460 mg | [H-].[Na+]
reactant | benzyl bromide | 10.6 mmol, 1.8 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrogen chloride | Cl | ClH
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
product | 3-(1-Benzylindol-3-yl)propionic Acid | 1.15 g, 79% | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)CCC(=O)O | C18H17NO2
